US06586445B1
tert-Butyl (1R)-2-Amino-1-(1H-indol-3-ylmethyl)-2-oxoethylcarbamate
In a reactor under 200 psi of pressure was added (6.2 g, 22 mmol) of methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-(1H-indol-3-yl)propanoate and 120 ml of methanol saturated with NH3. The solution was stirred at about 85° C. for about 24 hours. After cooling, the solution was evaporated and the residue precipitated by the addition of diisopropyl ether. Filtration gave 5.4 g of the title product as a white powder. Melting point: 142-143° C.

reactant | methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-(1H-indol-3-yl)propanoate | 22 mmol, 6.2 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=CNC2=CC=CC=C12 | C17H22N2O4
reactant | NH3 | N | H3N
solvent | methanol | 120 ml | CO | CH4O
product | tert-Butyl (1R)-2-Amino-1-(1H-indol-3-ylmethyl)-2-oxoethylcarbamate | 5.4 g | NC([C@@H](CC1=CNC2=CC=CC=C12)NC(OC(C)(C)C)=O)=O | C16H21N3O3
